US07338960B2
[(4-{[(1S)-1-[6-(4-cyanophenyl)-2-pyridinyl]-2-(ethyloxy)ethyl]oxy}-2-methylphenyl)oxy]acetic acid
Ethyl [(4-{[(1S)-1-[6-(4-cyanophenyl)-2-pyridinyl]-2-(ethyloxy)ethyl]oxy}-2-methylphenyl)oxy]acetate (0.886 g) was dissolved in THF (8.8 mL). Water (8.8 mL) and aq 2M NaOH (1.8 mL) were added and the mixture stirred at ambient temperature for 30 mins. The reaction mixture was acidified to pH 1 by the addition of aq 2M HCl and extracted with EtOAc (2×10 mL). The organic extracts were washed with brine (20 mL), dried (Na2SO4) and evaporated to give the title compound as a white foam (729 mg).

reactant | Ethyl [(4-{[(1S)-1-[6-(4-cyanophenyl)-2-pyridinyl]-2-(ethyloxy)ethyl]oxy}-2-methylphenyl)oxy]acetate | 0.886 g | C(#N)C1=CC=C(C=C1)C1=CC=CC(=N1)[C@@H](COCC)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C27H28N2O5
reactant | Water | 8.8 mL | O | H2O
reactant | NaOH | 2M, 1.8 mL | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 8.8 mL | C1CCOC1 | C4H8O
product | [(4-{[(1S)-1-[6-(4-cyanophenyl)-2-pyridinyl]-2-(ethyloxy)ethyl]oxy}-2-methylphenyl)oxy]acetic acid | 729 mg | C(#N)C1=CC=C(C=C1)C1=CC=CC(=N1)[C@@H](COCC)OC1=CC(=C(C=C1)OCC(=O)O)C | C25H24N2O5
